US05162588
A mixture of 1,2,3,4-tetrahydro-1,1,4,4,5,7-hexamethylnaphthalene (5.0 g) of TiCl4 (7.32 g) in methylene chloride (40 ml) was treated with Cl2CHOCH3 (2.66 g) in methylene chloride (5 ml), at 0° and over 20 min. The temperature of the reaction mixture was allowed to reach 20° (20 min) and said mixture was then poured on ice water and extracted with ether. The organic phase was successively washed with a 10% aqueous solution of NaOH, water and an aqueous solution saturated with NaCl, then dried over Na2SO4, evaporated and recrystallized from methanol. 4.06 g (yield 72%) of 5,6,7,8-tetrahydro-1,3,5,5,8,8-hexamethyl-2-naphthalenecarbaldehyde were obtained, the product being identical in data to that described in b).

reactant | 1,2,3,4-tetrahydro-1,1,4,4,5,7-hexamethylnaphthalene | 5.0 g | CC1(CCC(C2=C(C=C(C=C12)C)C)(C)C)C | C16H24
reactant | Cl2CHOCH3 | 2.66 g | C(Cl)(Cl)OC | C2H4Cl2O
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | 7.32 g | Cl[Ti](Cl)(Cl)Cl
product | 5,6,7,8-tetrahydro-1,3,5,5,8,8-hexamethyl-2-naphthalenecarbaldehyde | 4.06 g, yield 72% | CC1=C(C(=CC=2C(CCC(C12)(C)C)(C)C)C)C=O | C17H24O
